US05599966
18. {4-[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethylamino-methyl][trans]cyclohexylmethyl}4-phenylbutanoate-maleate
According to method I (dimethylformamide, 2 hours at 90° C.) from 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol and {4-(bromomethyl)[trans]cyclohexylmethyl}(4-phenyl)butanoate. Working up by means of chromatography (ethyl acetate/petroleum ether 60-80/triethylamine 4:2:1). Recrystallized as the maleate from ethyl acetate. Melting point: 155°-157° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol | NCC(O)C1=CC(=C(C(=C1)Cl)N)Cl | C8H10Cl2N2O
reactant | {4-(bromomethyl)[trans]cyclohexylmethyl}(4-phenyl)butanoate | BrC[C@@H]1CC[C@H](CC1)COC(CCCC1=CC=CC=C1)=O | C18H25BrO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {4-[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethylamino-methyl][trans]cyclohexylmethyl}4-phenylbutanoate maleate | NC1=C(C=C(C=C1Cl)C(CNC[C@@H]1CC[C@H](CC1)COC(CCCC1=CC=CC=C1)=O)O)Cl.C(\C=C/C(=O)[O-])(=O)[O-] | InChI=1S/C26H34Cl2N2O3.C4H4O4/c27-22-13-21(14-23(28)26(22)29)24(31)16-30-15-19-9-11-20(12-10-19)17-33-25(32)8-4-7-18-5-2-1-3-6-18;5-3(6)1-2-4(7)8/h1-3,5-6,13-14,19-20,24,30-31H,4,7-12,15-17,29H2;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1-/t19-,20-,24?;
